US09238656B2
Synthesis of (1S,2S,3R,4R)-3-(6-Chloro-2-[4-[1((S)-2-hydroxypropyl)-1,2,3,6-tetrahydro-pyridin-4-yl]-2-methoxyphenyl]-3H-imidazo[4,5-b]pyridine-7-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound XLVIII)
In a similar fashion as for the synthesis of III, (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide and 4[1-((S)-2-hydroxypropyl)-1,2,3,6-tetrahydro-pyridin-4-yl]-2-methoxybenzaldehyde were reacted to produce the title compound (44%). 1H NMR (d-4 methanol): 8.26 (d, J=7 Hz, 1H), 7.94 (s, 1H), 7.24 (m, 2H), 6.42 (m, 2H), 6.31 (s, 1H), 5.33 (m, 1H), 4.29 (m, 1H), 4.11 (s, 3H), 4.07 (m, 2H), 3.65 (m, 2H), 3.39-3.27 (m, 6H), 3.17 (m, 1H), 3.07-2.85 (m, 4H), 2.77 (d, J=7 Hz, 1H), 2.34 (d, J=7 Hz, 1H), 1.57 (d, J=7 Hz, 1H), 1.56 (d, J=7 Hz, 1H), 1.30 (d, J=7 Hz, 3H). MS: 549.19 (M+H). HPLC retention time: 1.86 minutes (G Method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C13H16ClN5O
reactant | 4[1-((S)-2-hydroxypropyl)-1,2,3,6-tetrahydro-pyridin-4-yl]-2-methoxybenzaldehyde | O[C@H](CN1CCC(=CC1)C1=CC(=C(C=O)C=C1)OC)C | C16H21NO3
product | (1S,2S,3R,4R)-3-(6-Chloro-2-[4-[1((S)-2-hydroxypropyl)-1,2,3,6-tetrahydro-pyridin-4-yl]-2-methoxyphenyl]-3H-imidazo[4,5-b]pyridine-7-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 44% | ClC=1C(=C2C(=NC1)NC(=N2)C2=C(C=C(C=C2)C=2CCN(CC2)C[C@H](C)O)OC)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C29H33ClN6O3
